US07642264B2
2-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-(3-bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine (example E.3) (0.45 g, 1.0 mmol) and 2,6-dimethyl-4-iodo-pyridine [CAS-No. 22282-67-3] (0.23 g, 1.0 mmol) according to the general procedure IVc. Obtained as a light yellow solid (0.057 g, 12%). MS (ISP) 474.2 [(M+H)+]; mp 159° C.

reactant | 2-(3-bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | 1.0 mmol, 0.45 g | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C18H9BrF6N2
reactant | 2,6-dimethyl-4-iodo-pyridine | 1.0 mmol, 0.23 g | CC1=NC(=CC(=C1)I)C | C7H8IN
product | 2-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | CC1=NC(=CC(=C1)C=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C | C25H17F6N3
